US09289419B2
Synthesis of (S)-2-(3-aminopyrrolidin-1-yl)ethanol hydrochloride
4M HCl solution (in dioxane) (1.5 mL) was added to a stirred solution of (S)-tert-butyl (1-(2-hydroxyethyl)pyrrolidin-3-yl)carbamate (400 mg, 1.73 mmol) in Dioxane (1 mL) and stirring was continued at 20-35° C. for 2 h. After which the reaction mixture was concentrated under reduced pressure to afford the crude. The crude obtained was purified by washing with diethyl ether and dried to afford 300 mg (crude) of the title compound.

reactant | HCl | 4M, 1.5 mL | Cl | ClH
reactant | (S)-tert-butyl (1-(2-hydroxyethyl)pyrrolidin-3-yl)carbamate | 1.73 mmol, 400 mg | OCCN1C[C@H](CC1)NC(OC(C)(C)C)=O | C11H22N2O3
solvent | Dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (S)-2-(3-aminopyrrolidin-1-yl)ethanol hydrochloride | Cl.N[C@@H]1CN(CC1)CCO | InChI=1S/C6H14N2O.ClH/c7-6-1-2-8(5-6)3-4-9;/h6,9H,1-5,7H2;1H/t6-;/m0./s1
